US06110937
Trifluoroacetic acid (80 mL) was added dropwise during 20 minutes to a solution of (S)-N-(tert-butoxycarbonyl)-3-(4-bromo-2,6-dimethylphenoxymethyl)piperidine (37.0 g, 92.9 mmol) in dichloromethane (250 mL) at a temperature of 5° C. After the addition was complete, the reaction mixture was stirred at room temperature for 2 hours. The solvent was then evaporated and the residue partitioned between 25% aqueous sodium hydroxide (200 mL) and ether (500 mL). The organic layer was removed and the aqueous phase extracted with additional ether (2×300 mL). The combined ether layers were washed with brine (100 mL), stirred over magnesium sulfate for 2 hours, and filtered to give a solution of (S)-3-(4-bromo-2,6-dimethylphenoxymethyl)piperidine.

reactant | Trifluoroacetic acid | 80 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | (S)-N-(tert-butoxycarbonyl)-3-(4-bromo-2,6-dimethylphenoxymethyl)piperidine | 92.9 mmol, 37.0 g | C(C)(C)(C)OC(=O)N1C[C@H](CCC1)COC1=C(C=C(C=C1C)Br)C | C19H28BrNO3
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
product | (S)-3-(4-bromo-2,6-dimethylphenoxymethyl)piperidine | BrC1=CC(=C(OC[C@@H]2CNCCC2)C(=C1)C)C | C14H20BrNO
